US08835472B2
N-(1-(4-((2-(sec-Butylamino)pyrimidin-5-yl)ethynyl)phenyl)propan-2-yl)acetamide
2.50 g (12.4 mmol) N-(1-(4-ethynylphenyl)propan-2-yl)acetamide (I58.3), 3.0 g (12.42 mmol) 2-chloro-5-iodopyrimidine and 872 mg (1.24 mmol) bis(triphenylphosphine)dichloropalladium in 10 mL water and 10 mL sec-butylamine are stirred at r.t. over night. The reaction mixture is diluted with water and extracted with DCM. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel, DCM/MeOH 98/2).

reactant | N-(1-(4-ethynylphenyl)propan-2-yl)acetamide | 12.4 mmol, 2.50 g | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 2-chloro-5-iodopyrimidine | 12.42 mmol, 3.0 g | ClC1=NC=C(C=N1)I | C4H2ClIN2
solvent | water | 10 mL | O | H2O
solvent | sec-butylamine | 10 mL | C(C)(CC)N | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 1.24 mmol, 872 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(1-(4-((2-(sec-Butylamino)pyrimidin-5-yl)ethynyl)phenyl)propan-2-yl)acetamide | C(C)(CC)NC1=NC=C(C=N1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C21H26N4O
